US07776864B2
Step 2: 4-[7-(Dimethylamino)-2-methyl-6-phenyl[1,2,4]triazolo[1,5-a]pyrimidin-5-yl]benzaldehyde
To a mixture of 370 mg 5-chloro-N,N,2-trimethyl-6-phenyl[1,2,4]triazolo[1,5-a]pyrimidin-7-amine and 231 mg 4-formylphenylboronic acid in 7 ml 1,2-dimethoxyethane are added 2.5 ml of a 10% w/w sodium carbonate solution and 47 mg dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium (II). The resulting mixture is heated to 130° C. by microwave irradiation under a inert gas atmosphere for 1 hour. The work up is performed by diluting the reaction mixture with water and dichloromethane, separating the phases and extraction of the aqueous phase with dichloromethane. The combined organic layers are dried over sodium sulphate and the solvent is evaporated. The crude product is purified by chromatography on silica gel (dichloromethane/methanol) to yield the desired product.

reactant | 5-chloro-N,N,2-trimethyl-6-phenyl[1,2,4]triazolo[1,5-a]pyrimidin-7-amine | 370 mg | ClC1=NC=2N(C(=C1C1=CC=CC=C1)N(C)C)N=C(N2)C | C14H14ClN5
reactant | 4-formylphenylboronic acid | 231 mg | C(=O)C1=CC=C(C=C1)B(O)O | C7H7BO3
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,2-dimethoxyethane | 7 ml | COCCOC | C4H10O2
solvent | water | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium | 47 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 4-[7-(Dimethylamino)-2-methyl-6-phenyl[1,2,4]triazolo[1,5-a]pyrimidin-5-yl]benzaldehyde | CN(C1=C(C(=NC=2N1N=C(N2)C)C2=CC=C(C=O)C=C2)C2=CC=CC=C2)C | C21H19N5O
